US04920116
N-(2-Chloro-4-methoxyphenyl)-N'-(cyclohexylmethyl)-N'-(2-propenyl)-1,2-ethanediamine
In a manner similar to Preparation 2 react N-(2-chloro-4-methoxyphenyl)-2-[cyclohexylmethyl(2-propenyl)-amino]acetamide with lithium aluminum hydride to obtain the title compound.

reactant | N-(2-chloro-4-methoxyphenyl)-2-[cyclohexylmethyl(2-propenyl)-amino]acetamide | ClC1=C(C=CC(=C1)OC)NC(CN(CC=C)CC1CCCCC1)=O | C19H27ClN2O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | N-(2-Chloro-4-methoxyphenyl)-N'-(cyclohexylmethyl)-N'-(2-propenyl)-1,2-ethanediamine | ClC1=C(C=CC(=C1)OC)NCCN(CC=C)CC1CCCCC1 | C19H29ClN2O
